US07115750B1
N-(6-Oxo-5,6,7,8-tetrahydro-2-naphthalenyl)[1,1′-biphenyl]-4-carboxamide
Concentrated hydrochloric acid (1.5 ml) was added to 6-acetamido-2-tetralone (20 mg. 0.098 mmol) obtained in Reference Example 71, which was stirred at 100° C. for 1 hour, and the solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. [1,1′-Biphenyl]-4-carbonyl chloride (21.3 mg, 0.098 mmol) was added to a dimethylformamide solution (0.5 ml) of the obtained oily substance and triethylamine (0.014 ml, 0.098 mmol) under ice-cooling, which was stirred at room temperature for 1 hour. Ethyl acetate was added to the reaction mixture, which was washed with 1N hydrochloric acid, aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting residue was purified by silica gel column chromatography (development solvent; hexane:ethyl acetate=1:1), to give the titled compound (10 mg).

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | 6-acetamido-2-tetralone | 0.098 mmol, 20 mg | C(C)(=O)NC=1C=C2CCC(CC2=CC1)=O | C12H13NO2
reactant | [1,1′-Biphenyl]-4-carbonyl chloride | 0.098 mmol, 21.3 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | triethylamine | 0.098 mmol, 0.014 ml | C(C)N(CC)CC | C6H15N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-(6-Oxo-5,6,7,8-tetrahydro-2-naphthalenyl)[1,1′-biphenyl]-4-carboxamide | 10 mg | O=C1CC=2C=CC(=CC2CC1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C23H19NO2
